US07192982B2
(2S)-3-(6-Hydroxy-4′-methoxy-biphenyl-3-yl)-2-methoxy-propionic acid
A solution of (2S)(4-Hydroxy-3-iodide-)-2-methoxy dihidrocinnamic acid (197 mg, 0.56 mmol), 4-methoxyphenyl boronic acid (170.7 mg, 1.12 mmol) and tetrakis(triphenylphosphine)-palladium (0) (8.7 mg, 0.5 mmol) in 11 mL of a mixture 20:1 toluene/ethanol together with 2 mL of a 2N Na2CO3 was heated to 120° for 16 hours under nitrogen atmosphere. The reaction mixture was cooled to room temperature and dilute with ethyl acetate (20 mL). It was washed with H2O (3×5 mL) and brine (3×5 mL). The combined organic layers were dried (MgSO4), filtered and concentrated under vacuum. The resultant crude was purified by column chromatography (silica gel, hexanes/ethyl acetate 8:2). Colorless oil (123 mg, 67%). 1H-NMR (200.15 MHz, CDCl3): δ 7.39 (dd, 2H, J=2.1, 6.4), 7.08–7.03 (m, 2H), 6.97 (dd, 2H, J=2.1, 6.7), 6.85 (dd, 1H, J=1.3, 7.5), 5.60 (s, 1H), 4.17 (q, 2H, J=7.0), 3.95 (dd, 1H, J=5.9, 6.4), 3.82 (s, 3H), 3.35 (s, 3H), 2.97 (d, 2H, J=6.4), 1.22 (t, 3H, J=7.2)

reactant | 4-methoxyphenyl boronic acid | 1.12 mmol, 170.7 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | toluene ethanol | C1(=CC=CC=C1)C.C(C)O
reactant | Na2CO3 | 2N | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium (0) | 0.5 mmol, 8.7 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (2S)-3-(6-Hydroxy-4′-methoxy-biphenyl-3-yl)-2-methoxy-propionic acid | OC1=CC=C(C=C1C1=CC=C(C=C1)OC)C[C@@H](C(=O)O)OC | C17H18O5
